US06969716B2
5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine was coupled to 3,5-difluoro-4-tributylstannylpyridine using the method of Example 6 to give 5-[3-(3,5-difluoropyridin-4-yl)-4-fluorophenyl]-3-(2,4-difluorophenyl)-[1,2,4]triazine, crystallised from hot 2-propanol as a pale yellow solid: δH (500 MHz, d6-DMSO) 7.35 (1H, m), 7.52 (1H, m), 7.79 (1H, t, J 8.9 Hz), 8.34 (1H, m), 8.71 (2H, m), 8.79 (2H, s), 10.13 (1H, s); m/z (ES+) 401.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-(2,4-difluorophenyl)-[1,2,4]triazine | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F | C15H7BrF3N3
reactant | 3,5-difluoro-4-tributylstannylpyridine | FC=1C=NC=C(C1[Sn](CCCC)(CCCC)CCCC)F
product | 5-[3-(3,5-difluoropyridin-4-yl)-4-fluorophenyl]-3-(2,4-difluorophenyl)-[1,2,4]triazine | FC=1C=NC=C(C1C=1C=C(C=CC1F)C=1N=C(N=NC1)C1=C(C=C(C=C1)F)F)F | C20H9F5N4
